US06251912B1
To a stirred solution of 0.72 g of 4-(2-Methoxy-ethoxy)-but-2-ynoic acid and 0.57 mL of isobutyl chloroformate in 15 mL of tetrahydrofuran at 0° C. was added 0.5 mL of N-methylmorpholine followed by 1.2 g of solid N-(3-bromophenyl)-4,6-quinazolindiamine. Stirring was continued for 1 hr at 0° C. and 30 min at room temperature. The mixture was stored over night at −10° C. The mixture was poured into saturated sodium bicarbonate and extracted with ethyl acetate. The organic solution was dried over magnesium sulfate. The solvent was removed and the residue was chromatographed on silica gel eluting with ethyl acetate, choroform, and methanol solvent mixtures to give 0.55 g of 4-(2-Methoxy-ethoxy)-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide as a yellow solid: mass spectrum (m/e): M+H 454.9, 456.9.

reactant | 4-(2-Methoxy-ethoxy)-but-2-ynoic acid | 0.72 g | COCCOCC#CC(=O)O | C7H10O4
reactant | isobutyl chloroformate | 0.57 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(2-Methoxy-ethoxy)-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 0.55 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CCOCCOC)=O | C21H19BrN4O3
